US07847101B2
2-{[2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazol-6-ylmethyl]-amino}-ethanol (574-38C):
The title compound (10 mg) was prepared starting from 40 mg of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine and excess 2-aminoethanol. MS (m/z, ES+): 304.1 (M+1, 10%), 243.2 (M-HOCH2CH2NH, 100%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 40 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 2-{[2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazol-6-ylmethyl]-amino}-ethanol | 10 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)CNCCO | C14H17N5OS
